US08629137B2
Step 1: 3,5-difluoro-benzoic acid chloride
1.63 g (10.00 mmol) 3,5-difluoro-benzoic acid were mixed with 20 mL thionyl chloride and boiled for 2 h. The reaction mixture was evaporated to dryness and coevaporated twice with toluene. The residue was reacted further as the crude product.

reactant | 3,5-difluoro-benzoic acid | 10.00 mmol, 1.63 g | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
product | 3,5-difluoro-benzoic acid chloride | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
